Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / ketorolac / Iodinated Contrast Media
 
Attending: ___.
 
Chief Complaint:
pre-syncope
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ PMHx HTN, HLD, RA, hypothyroidism who presents with episodes
of presyncope. For the last ___ weeks, she describes episodes of
profound fatigue and pre-syncope, feeling like all her energy is
suddenly drained from her. Last occurred prior to admission when
bringing groceries back into her house. She does not feel like
she was exerting herself, though episodes typically occur with
walking. They do not occur soon after standing. There are no
prodromal symptoms. She has had vertigo before but feels these
episodes are different. No focal weakness/numbness, speech or
vision changes. No chest pain, palpitations, though does note
associated dyspnea which she describes as feeling like a lump in
her chest. She does have mild swelling in her legs which is
chronic and unchanged. No orthopnea/PND/dyspnea on exertion
outside these episodes. No chest pain w exertion. 

Overall the episodes have become more frequent and more severe 
in
quality. They only subside after she lays in bed to rest. She
presented to her PCP office on the day prior to admission for
near-syncope, found to have a HR ___ at PCP's office. She was
going to follow up outpatient with cardiology, but continued to
feel unwell so was advised to come to ED. 

No history of CHF, CAD, stroke, DVT. Never had a stress test or
coronary angiogram, unsure if she has had an echo. No
fever/chills, weight changes, cough, n/v/d, abdominal pain,
dysuria/hematuria, neuro deficits.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Rheumatoid arthritis
Hypothyroidism 
 
Social History:
___
Family History:
Reports history of MI, heart failure, stroke, in multiple family
members. 
 
Physical Exam:
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor
or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 7 cm.  
CARDIAC: regular rhythm with many premature beats, normal S1, 
S2.
No murmurs/rubs/gallops.    
LUNGS: No chest wall deformities. Resp were unlabored, no
accessory muscle use. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c. 1+ non-pitting edema to lower shins b/l
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
BLOOD

___ 07:15PM BLOOD WBC-8.2 RBC-4.20 Hgb-13.3 Hct-40.2 MCV-96 
MCH-31.7 MCHC-33.1 RDW-13.4 RDWSD-46.5* Plt ___
___ 07:00AM BLOOD WBC-6.2 RBC-4.13 Hgb-12.9 Hct-38.2 MCV-93 
MCH-31.2 MCHC-33.8 RDW-13.4 RDWSD-45.1 Plt ___
___ 07:15PM BLOOD Neuts-67.9 Lymphs-18.2* Monos-10.1 
Eos-3.2 Baso-0.4 Im ___ AbsNeut-5.57 AbsLymp-1.49 
AbsMono-0.83* AbsEos-0.26 AbsBaso-0.03
___ 07:15PM BLOOD ___ PTT-25.5 ___
___ 07:15PM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:15PM BLOOD Glucose-91 UreaN-28* Creat-1.0 Na-138 
K-4.5 Cl-106 HCO3-17* AnGap-15
___ 07:00AM BLOOD Glucose-86 UreaN-22* Creat-0.9 Na-141 
K-4.2 Cl-107 HCO3-19* AnGap-15
___ 06:34AM BLOOD Glucose-101* UreaN-20 Creat-0.9 Na-140 
K-4.3 Cl-110* HCO3-19* AnGap-11
___ 07:15PM BLOOD cTropnT-<0.01
___ 07:15PM BLOOD Calcium-9.5 Phos-4.6* Mg-2.2
___ 07:00AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.1
___ 06:34AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.1 Cholest-159
___ 06:34AM BLOOD Triglyc-84 HDL-57 CHOL/HD-2.8 LDLcalc-85
___ 07:15PM BLOOD TSH-0.68
___ 07:30PM BLOOD Glucose-92 Lactate-0.8 Creat-1.0 Na-139 
K-4.0 Cl-107 calHCO3-22
___ 07:30PM BLOOD Hgb-13.9 calcHCT-42

URINE

___ 08:15PM URINE Color-Straw Appear-Clear Sp ___
___ 08:15PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM*
___ 08:15PM URINE RBC-1 WBC-3 Bacteri-NONE Yeast-NONE Epi-0
___ 08:15PM URINE Mucous-RARE*
___ 08:15PM URINE Hours-RANDOM

MICRO

___ 8:15 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

OTHER STUDIES

___ EKG:  sinus rhythm with frequent ventricular premature
beats. Normal axis, intervals. Non-spec T wave abnormality with
TW flattening in V5/6

___ Coronary Angiography
DESCRIPTION: The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a medium
caliber vessel. This vessel bifurcates into
the Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the
LM, is a medium caliber vessel.
The Diagonal, arising from the proximal segment, is a medium
caliber vessel. There is a 50% stenosis in
the proximal segment.
Cx: The Circumflex artery, which arises from the LM, is a large
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a
large caliber vessel.
The Right Posterior Descending Artery, arising from the distal
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment,
is a medium caliber vessel.
COMPLICATIONS: no clinically significant complications.
FINDINGS: Branch vessel coronary artery disease.
 
Brief Hospital Course:
SUMMARY STATEMENT
___ PMHx HTN, HLD, RA, hypothyroidism, who presented with 
episodes of presyncope and associated dyspnea, reported 
bradycardic, found to have heavy PVC burden, positive stress 
test, and s/p coronary angiogram finding branch vessel CAD (no 
___, being discharged with 2-week Zio Patch, SL 
nitro, and close follow up.

# CORONARIES: n/a
# PUMP: n/a
# RHYTHM: ECG on admission: sinus rhythm with frequent
ventricular premature beats. Normal axis, intervals. Non-spec T
wave abnormality with TW flattening in V___

ACTIVE ISSUES
=============
# Presyncope
Patient described increasing episodes of presyncope and 
associated dyspnea. No prodromal symptoms and not classically 
associated with vagal event. She was initially found to have HR 
in ___ (though likely under-estimated by EMS ___ PVC burden, w/ 
ECG here showing sinus rhythm, normal rate, w/ high PVC burden. 
She underwent exercise stress test, which was initially 
concerning for ischemia, though she was noted to have 
chronotropic competence with ability to increase HR without 
ventricular ectopy during exercise. The patient underwent 
cardiac cath that showed a 50% branch vessel stenosis. No stent 
was deployed. The patient's symptoms ultimately improved and she 
was started on aspirin, statin, and metoprolol succinate 25mg at 
discharge in order to attempt to suppress PVCs. She was also 
given a Zio Patch on discharge. TTE with grade II diastolic 
dysfunction and mild pulmonary HTN.

# Hypertension
Systolic BP in 200s in ED, since downtrended to 160s without 
intervention. No symptoms to suggest hypertensive urgency so 
continued ACE-inhibitor.

# Low Bicarbonate
HCO3 17 on BMP in ED, w/ repeat 22 on whole blood. Anion gap 
non-elevated. No apparent etiology of non-gap acidosis.

CHRONIC ISSUES
==============

# Hypothyroidism
Continued home levothyroxine 137mcg qd.

# Hyperlipidemia
Continued home atorva 10mg qhs.

# Rheumatoid Arthritis
Continued home methotrexate and folic acid.

TRANSITIONAL ISSUES
[] Will need Zio patch followed-up with new cardiologist to 
evaluate for PVC burden and other management considerations
[] Started on aspirin, increased to atorvastatin 20mg daily for 
non-obstructive CAD
[] Started on metoprolol succinate 25mg daily in attempt to 
suppress PVC burden; consider up-titration as outpatient as 
patient tolerates
[] Will need to follow-up on TTE findings of grade II diastolic 
dysfunction and mild pulmonary HTN
[] Follow-up cholesterol panel

# CODE: FULL (confirmed)
# CONTACT: ___ (HCP, husband) ___, ___
(son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Levothyroxine Sodium 137 mcg PO DAILY 
3. benazepril 10 mg oral DAILY 
4. FoLIC Acid 0.8 mg PO DAILY 
5. Methotrexate 20 mg PO 1X/WEEK (SA) 
6. Diclofenac Sodium ___ 75 mg PO Frequency is Unknown 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
do not take more than 3 tabs; if having chest pain, call your 
doctor or go to the emergency room 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually every 5 
minutes Disp #*15 Tablet Refills:*0 
4.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  benazepril 10 mg oral DAILY  
6.  Diclofenac Sodium ___ 75 mg PO BID:PRN pain  
7.  FoLIC Acid 0.8 mg PO DAILY  
8.  Levothyroxine Sodium 137 mcg PO DAILY  
9.  Methotrexate 20 mg PO 1X/WEEK (SA)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Atypical chest pain
Dyspnea
Pre-syncope

Secondary
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were feeling dizzy, with chest discomfort and a sensation 
that there was a lump in your chest that was making it harder to 
breathe

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- You had a stress test that was initially concerning for a 
blockage in one of your arteries
- You had a procedure called a cardiac catheterization to look 
at the blood vessels in your heart; this showed a mild blockage 
in one of your arteries, but was otherwise normal
- You had an ultrasound of your heart that showed no significant 
abnormalities; however, you should still discuss this with your 
new cardiologist

WHAT SHOULD I DO WHEN I GET HOME FROM THE HOSPITAL?
- Be sure to take all of your medications as prescribed
- Please attend all of your follow-up appointments, especially 
with your new cardiologist
- If you have fevers, chills, chest pain, problems breathing, 
dizziness, or generally feel unwell, please call your doctor or 
go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___